US07288547B2
530 mg (1.9 mmol) of (R)-2-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butan-1-ol is added to a suspension of 303 mg of a mixture that consists of 4-amino-thiophene-2-sulfonic acid amide and 5-amino-thiophene-2-sulfonic acid amide (ratio: 2:1) in 7 ml of ethanol and 170 μl of concentrated HCl. The reaction mixture is stirred for 21 hours under reflux. After cooling, the batch is purified by chromatography (Flashmaster II, hexane/EE 2:8). The crude product that is obtained is then recrystallized (ethyl acetate/diisopropyl ether). 47 mg (0.11 mmol, 7% of theory) of the product 4-[5-bromo-4-(1-hydroxymethyl-propylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonic acid amide is obtained.

reactant | (R)-2-(5-bromo-2-chloro-pyrimidin-4-ylamino)-butan-1-ol | 1.9 mmol, 530 mg | BrC=1C(=NC(=NC1)Cl)N[C@@H](CO)CC | C8H11BrClN3O
reactant | 4-amino-thiophene-2-sulfonic acid amide | NC=1C=C(SC1)S(=O)(=O)N | C4H6N2O2S2
reactant | 5-amino-thiophene-2-sulfonic acid amide | NC1=CC=C(S1)S(=O)(=O)N | C4H6N2O2S2
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | HCl | 170 μl | Cl | ClH
product | 4-[5-bromo-4-(1-hydroxymethyl-propylamino)-pyrimidin-2-ylamino]-thiophene-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=C(SC1)S(=O)(=O)N)NC(CC)CO | C12H16BrN5O3S2
